US08669234B2
A mixture of 6-(2-Amino-5-bromo-phenylcarbamoyl)-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester and 6-(2-Amino-4-bromo-phenylcarbamoyl)-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester (1.446 g, 3.25 mmol) was dissolved in AcOH (20 mL) and the reaction mixture was stirred at 40° C. for 18 hours then concentrated under reduced pressure. The residue was dissolved in EtOAc and washed with saturated aqueous NaHCO3. The aqueous layer was extracted 2× with EtOAc and the combined organics were dried over MgSO4, filtered and concentrated to provide 6-(6-Bromo-1H-benzoimidazol-2-yl)-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester (1.385 g, 100%).

reactant | 6-(2-Amino-5-bromo-phenylcarbamoyl)-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C(NC1=C(C=CC(=C1)Br)N)=O | C21H22BrN3O3
reactant | 6-(2-Amino-4-bromo-phenylcarbamoyl)-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester | 3.25 mmol, 1.446 g | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C(NC1=C(C=C(C=C1)Br)N)=O | C21H22BrN3O3
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 6-(6-Bromo-1H-benzoimidazol-2-yl)-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester | 1.385 g, 100% | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C1=NC2=C(N1)C=C(C=C2)Br | C21H20BrN3O2
